US06878721B1
N-(5,6-Diethyl-2-methyl-indan-2-yl)-benzamide is prepared from N-(5-acetyl-6-ethyl-2-methyl-indan-2-yl)-benzamide (1.1 g) following the procedure used to prepare N-(5-ethyl-2-methyl-indan-2-yl)-benzamide. ES+ MS m/e 308 (MH+)

reactant | N-(5-acetyl-6-ethyl-2-methyl-indan-2-yl)-benzamide | 1.1 g | C(C)(=O)C=1C=C2CC(CC2=CC1CC)(C)NC(C1=CC=CC=C1)=O | C21H23NO2
reactant | N-(5-ethyl-2-methyl-indan-2-yl)-benzamide | C(C)C=1C=C2CC(CC2=CC1)(C)NC(C1=CC=CC=C1)=O | C19H21NO
product | N-(5,6-Diethyl-2-methyl-indan-2-yl)-benzamide | C(C)C=1C=C2CC(CC2=CC1CC)(C)NC(C1=CC=CC=C1)=O | C21H25NO
